* C:\Users\Parmeet Singh Ghai\Documents\GitHub\AutomatedLockSystem\LTSpice\Draft5_CompleteULN2003_use.asc
XU1 HourClock NC_01 Q1 Q2 Q3 Q4 Q5 Q6 Q7 Q8 Q9 Q10 Q11 Q12 VCC 0 CD4040B vdd=5 speed=1 tripdt=5n vdd1={vdd} speed1={speed} tripdt1={tripdt}
XU2 0 VCC N001 LT1086-5
C1 N001 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C3 N001 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
C2 VCC 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C4 VCC 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
V2 N001 0 8.4 Rser=0.150
D5 Q4 N002 1N4148
D6 Q5 N002 1N4148
D7 Q7 N002 1N4148
D8 Q8 N002 1N4148
D9 Q9 N002 1N4148
D10 Q10 N002 1N4148
D11 Q11 N002 1N4148
D12 Q12 N002 1N4148
R4 NC_02 N003 4.7K
XU5 M4 M3 M2 M1 N004 N009 N010 0 NC_03 F_RESET_A R_RESET LOAD ULNC1 ULNC2 ULNC3 ULNC4 ULN2003
SW 0 PHOTO_R_CONN photo_r_v 0 switch
V3 N003 0 PULSE(0 5 0 1n 1n 0.5 1)
R3 REF2.5 VCC 4.7K
D3 N016 Q1 1N4148
D4 N016 Q2 1N4148
D13 N016 Q3 1N4148
D14 N016 Q6 1N4148
R2 N016 VCC 4.7K
R15 HourClock VCC 4.7K
XU7 N011 HourClock C0 C1 C2 C3 C4 NC_04 NC_05 NC_06 NC_07 NC_08 NC_09 NC_10 VCC 0 CD4040B vdd=5 speed=1 tripdt=5n vdd1={vdd} speed1={speed} tripdt1={tripdt}
C5 VCC 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C9 VCC 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
C10 VCC 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C12 VCC 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
R6 N011 C3 4.7K
R19 P001 VCC 4.7K
D§SECOND_SIGNAL P001 Q1 AOT-2015
XFORWARD_CTRL LOAD N007 F_RESET P002 N005 N006 N008 VCC 0 CD4015B vdd=5 speed=1 tripdt=5n vdd1={vdd} speed1={speed} tripdt1={tripdt}
C6 VCC 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C7 VCC 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
XREVERSE_CTRL LOAD N014 R_RESET P003 N012 N013 N015 VCC 0 CD4015B vdd=5 speed=1 tripdt=5n vdd1={vdd} speed1={speed} tripdt1={tripdt}
C8 VCC 0 0.1µ V=25 Irms=0 Rser=0.025 Lser=800p mfg="Würth Elektronik" pn="885012206071 WCAP-CSGP 0603" type="X7R"
C13 VCC 0 10µ V=25 Irms=0 Rser=0 Lser=0 mfg="Murata" pn="GRM21BR61E106KA73" type="X5R"
D21 N005 M3 1N4148
D22 N006 M2 1N4148
D23 N008 M1 1N4148
D24 N012 M2 1N4148
D25 N013 M3 1N4148
D26 N015 M4 1N4148
V1 MOTOR_CLOCK 0 PULSE(0 5 0 1n 1n 0.1 0.2)
R§MOTOR1 VCC ULNC4 100
R§MOTOR2 VCC ULNC3 100
R§MOTOR3 VCC ULNC2 100
R§MOTOR4 VCC ULNC1 100
D2 N005 N004 1N4148
D16 N012 N004 1N4148
XU6 REF2.5 P004 VCC 0 HourClock LM393A
R18 REF2.5 0 4.7K
XU8 N016 REF2.5 VCC 0 HourClock LM393A
D35 P005 0 NSPW500BS
D36 P006 0 NSPW500BS
D37 P007 0 NSPW500BS
D38 P008 0 NSPW500BS
D39 P009 0 NSPW500BS
R16 C0 P005 4.7K
R29 C1 P006 4.7K
R30 C2 P007 4.7K
R31 C3 P008 4.7K
R32 C4 P009 4.7K
R23 P004 N002 4.7K
V5 photo_r_v 0 {photo_r}
R1 VCC LOAD 4.7K
R5 N007 MOTOR_CLOCK 4.7K
R7 N014 MOTOR_CLOCK 4.7K
D1 P002 M4 1N4148
D15 P003 M1 1N4148
R8 VCC R_RESET 4.7K
R9 N009 R 4.7K
R10 VCC F_RESET_A 4.7K
R11 P010 R 4.7K
D18 F_RESET_A F_RESET 1N4148
D19 P010 F_RESET 1N4148
R12 F_RESET 0 47K
R13 VCC N010 4.7K
SW1 0 PHOTO_F_CONN photo_f_v 0 switch
V7 photo_f_v 0 {photo_f}
V8 R 0 {r_val}
C11 N018 0 100µ V=25 Irms=520m Rser=0.087 Lser=27.6n
V9 N019 0 PWL(0 5 0.2 5 0.3 0)
D20 N019 N018 1N4148
R14 VCC LOAD 4.7K
R§POT104 N017 N018 100K
Q1 N009 PHOTO_R_CONN 0 0 BC547C
R17 PHOTO_R_CONN VCC 4.7K
Q2 N010 PHOTO_F_CONN 0 0 BC547C
R20 PHOTO_F_CONN VCC 4.7K
Q3 N010 N017 0 0 BC547C
R21 N004 0 47K
R22 0 N017 47K
.model D D
.lib C:\Users\Parmeet Singh Ghai\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Parmeet Singh Ghai\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 50 0 1 uic
.step param index list 4 6
.param r_val = table(index,0,0,1,5,2,0,3,5,4,0,5,5,6,0,7,5)
.param photo_r = table(index,0,0,1,0,2,5,3,5,4,0,5,0,6,5,7,5)
.param photo_f = table(index,0,0,1,0,2,0,3,0,4,5,5,5,6,5,7,5)
.options reltol=0.01 abstol=1n chgtol=1p
.options gmin=1n cshunt=1p
.options itl1=500 itl2=5000 itl4=100
.include cd4000.lib
.include 74hc.lib
.model switch SW(ron=0.01 roff=1MEG vt=4.9 vh=0)
* R / Trigger BIT is the 5th Bit with Count of 32 \nRESET will happen at 6th BIT so the TRIGGER will \nremain ON for another 32 counts or 16 hours
* RESET is always ONE BIT \nahead of the R/TRIGGER BIT
* Clock Output will remain low \nmost of the time so no need for \na pull down
* "R" signal at its lowest is 700mV and its highest is 5V\nfor Forward Rotation, when R is LOW(700mv) the NEG TERM \nof comparator is 2.5V which makes Forward Rotation turn on \nwhen PhotoTransistor turns on then NEG is at Ground(0v) and R\ncould be at LOW(700mV) or HIGH(5V) either ways the Forward Rotation\nremains OFF.
.lib C:\Users\Parmeet Singh Ghai\Documents\GitHub\AutomatedLockSystem\LTSpice\CD4015B.sub
.lib C:\Users\Parmeet Singh Ghai\Documents\GitHub\AutomatedLockSystem\LTSpice\LM393A.sub
.lib C:\Users\Parmeet Singh Ghai\Documents\GitHub\AutomatedLockSystem\LTSpice\ULN2003.lib
.lib CD4000.lib
.lib LT1083.lib
.backanno
.end
